US07060844B2
[3-(2-Oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide
To a solution of 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (50.0 mg, 0.189 mmol) and N,N-diisopropylethylamine (98.8 μL, 0.567 mmol) in 2.0 mL THF was added acetyl chloride (13.4 μL, 0.189 mmol). After stirring at room temperature for 1 h, the slurry was partitioned between NaHCO3 solution and EtOAc (warmed to dissolve solid). The organic phase was washed with H2O, 4% aqueous HCl solution, H2O, saturated NaHCO3, brine and dried with Na2SO4. After concentrating in vacuo the residue was triturated with EtOAc to give the title compound (47.4 mg, 82%) as a yellow solid.

reactant | 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.189 mmol, 50.0 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
reactant | N,N-diisopropylethylamine | 0.567 mmol, 98.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.189 mmol, 13.4 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | [3-(2-Oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide | 47.4 mg, 82% | O=C1NC2=CC=CC=C2C1=C1OCC2=CC=C(C=C12)CC(=O)N | C18H14N2O3
